data/cycloadd/train.csv
Unnamed: 0,rxn_id,AAM,solvent,temp,G_act,G_r
4417,5049,[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10].[CH3:11][O:12][C:13](=[O:14])[C:15]#[N+:16][C-:17]([C:18]([CH3:19])=[O:20])[C:21]([CH3:22])=[O:23]>>[CH2:1]1[C@@H:2]2[C@H:3]([N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10])[C:15]([C:13]([O:12][CH3:11])=[O:14])=[N:16][C:17]2([C:18]([CH3:19])=[O:20])[C:21]([CH3:22])=[O:23],water,298.15,20.270171221427645,-28.21481697312119
4500,5133,[CH3:10][C:11](=[O:12])[C-:13]([C:14]#[N:15])[O+:16]=[C:17]([CH3:18])[c:19]1[cH:20][cH:21][cH:22][cH:23][cH:24]1.[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]([CH3:3])=[CH:4][C@H:5]1[C@H:6]([C:7]([CH3:8])=[CH2:9])[C:17]([CH3:18])([c:19]2[cH:20][cH:21][cH:22][cH:23][cH:24]2)[O:16][C:13]1([C:11]([CH3:10])=[O:12])[C:14]#[N:15],water,298.15,20.59741550152944,-15.07801532808738
4801,5480,[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10].[CH3:11][O:12][C:13](=[O:14])[CH:15]=[N+:16]([CH3:17])[C-:18]([C:19]([CH3:20])=[O:21])[C:22](=[O:23])[O:24][CH3:25]>>[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[C@H:6]2[C@:7]1([C:8]([NH2:9])=[O:10])[CH:15]([C:13]([O:12][CH3:11])=[O:14])[N:16]([CH3:17])[C:18]2([C:19]([CH3:20])=[O:21])[C:22](=[O:23])[O:24][CH3:25],water,298.15,16.76865279028424,-12.449779596809288
4794,5473,[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10].[CH3:11][NH:12][C:13](=[O:14])[C-:15]([CH3:16])[NH+:17]=[C:18]([C:19]([CH3:20])=[O:21])[C:22](=[O:23])[O:24][CH3:25]>>[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[C@H:6]2[C@:7]1([C:8]([NH2:9])=[O:10])[C:18]([C:19]([CH3:20])=[O:21])([C:22](=[O:23])[O:24][CH3:25])[NH:17][C:15]2([C:13]([NH:12][CH3:11])=[O:14])[CH3:16],water,298.15,40.01422578136975,3.5540589542647214
1679,1852,[CH3:12][NH:13][C:14](=[O:15])[C:16]([C:17]#[N:18])=[O+:19][C-:20]([CH3:21])[C:22](=[O:23])[NH:24][CH3:25].[CH3:1][CH:2]1[C:3]#[C:4][C:5]([Cl:6])([Cl:7])[CH2:8][CH2:9][CH2:10][CH2:11]1>>[CH3:1][CH:2]1[C:3]2=[C:4]([C:5]([Cl:6])([Cl:7])[CH2:8][CH2:9][CH2:10][CH2:11]1)[C:16]([C:14]([NH:13][CH3:12])=[O:15])([C:17]#[N:18])[O:19][C:20]2([CH3:21])[C:22](=[O:23])[NH:24][CH3:25],water,298.15,17.418433188419677,-63.12045036138702
2128,2362,[CH3:1][O:2][C:3]([Br:4])=[C:5]([Br:6])[Br:7].[CH3:8][O:9][C:10](=[O:11])[c-:12]1[c:13](=[O:14])[o:15][c:16]([C:17]#[N:18])[n+:19]1[CH3:20]>>[CH3:1][O:2][C:3]1([Br:4])[C:5]([Br:6])([Br:7])[C:16]2([C:17]#[N:18])[O:15][C:13](=[O:14])[C:12]1([C:10]([O:9][CH3:8])=[O:11])[N:19]2[CH3:20],water,298.15,35.974757614756435,12.650828963101892
1467,1617,[CH3:10][NH:11][C:12](=[O:13])[CH:14]=[O+:15][C-:16]([C:17]#[N:18])[C:19](=[O:20])[NH:21][CH3:22].[Cl:1][C:2]1=[C:3]([Br:4])[CH:5]2[CH:6]=[CH:7][CH:8]1[O:9]2>>[Cl:1][C:2]12[C:3]([Br:4])([CH:5]3[CH:6]=[CH:7][CH:8]1[O:9]3)[CH:14]([C:12]([NH:11][CH3:10])=[O:13])[O:15][C:16]2([C:17]#[N:18])[C:19](=[O:20])[NH:21][CH3:22],water,298.15,6.915319913632453,-55.02277209057375
3225,3641,[CH3:10][N-:11][N+:12]#[C:13][C:14]([CH3:15])=[O:16].[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]1([CH3:8])[CH2:9][C:13]([C:14]([CH3:15])=[O:16])=[N:12][N:11]1[CH3:10],water,298.15,17.248859492031233,-38.92385420727168
1468,1619,[CH3:15][O:16][C:17](=[O:18])[C-:19]([CH3:20])[NH+:21]=[C:22]([C:23]#[N:24])[C:25]([CH3:26])=[O:27].[CH3:1][C:2]1([CH3:3])[C:4]#[C:5][C:6]([C:7]#[N:8])([C:9]#[N:10])[CH2:11][CH2:12][CH2:13][CH2:14]1>>[CH3:1][C:2]1([CH3:3])[C:4]2=[C:5]([C:6]([C:7]#[N:8])([C:9]#[N:10])[CH2:11][CH2:12][CH2:13][CH2:14]1)[C:19]([C:17]([O:16][CH3:15])=[O:18])([CH3:20])[NH:21][C:22]2([C:23]#[N:24])[C:25]([CH3:26])=[O:27],water,298.15,27.22631520869561,-29.06683289369355
226,246,[CH3:1][C:2]#[C:3][C:4]#[N:5].[CH3:6][NH:7][C:8](=[O:9])[CH-:10][N+:11]([CH3:12])=[CH:13][c:14]1[cH:15][cH:16][cH:17][cH:18][cH:19]1>>[CH3:1][C:2]1=[C:3]([C:4]#[N:5])[CH:10]([C:8]([NH:7][CH3:6])=[O:9])[N:11]([CH3:12])[CH:13]1[c:14]1[cH:15][cH:16][cH:17][cH:18][cH:19]1,water,298.15,18.20914042665133,-52.88272722131249
3506,3998,[CH3:9][O:10][C:11](=[O:12])[C:13]([CH3:14])=[NH+:15][C-:16]([CH3:17])[CH3:18].[O-:1][C:2](=[O:3])/[CH:4]=[CH:5]\[C:6](=[O:7])[O-:8]>>[O-:1][C:2](=[O:3])[C@@H:4]1[C@H:5]([C:6](=[O:7])[O-:8])[C:16]([CH3:17])([CH3:18])[NH:15][C:13]1([C:11]([O:10][CH3:9])=[O:12])[CH3:14],water,298.15,23.58624687533085,-16.066512634146676
1792,1983,[CH3:10][NH:11][C:12](=[O:13])[C-:14]([C:15](=[O:16])[NH:17][CH3:18])[N+:19]([CH3:20])=[C:21]([C:22]([CH3:23])=[O:24])[C:25]([CH3:26])=[O:27].[CH3:1][C:2]1=[C:3]([Cl:4])[CH:5]2[CH:6]=[CH:7][CH:8]1[O:9]2>>[CH3:1][C:2]12[C:3]([Cl:4])([CH:5]3[CH:6]=[CH:7][CH:8]1[O:9]3)[C:14]([C:12]([NH:11][CH3:10])=[O:13])([C:15](=[O:16])[NH:17][CH3:18])[N:19]([CH3:20])[C:21]2([C:22]([CH3:23])=[O:24])[C:25]([CH3:26])=[O:27],water,298.15,46.84182176134809,-16.22063116613581
